US07777042B2
To 4.0 g (15.64 mmol or millimoles) of (S)-piperidine-2-carboxylic acid benzyl ester hydrochloride and 3.15 g (31.28 mmol) of triethylamine in (200 ml) was added 4.21 g (17.20 mmol) of 3-trifluoromethylbenzenesulfonyl chloride. The mixture was stirred at room temperature for 1 hour. The reaction mixture was then washed with water, brine and dried (sodium sulfate). Chromatography on silica gel, eluting with dichloromethane provided 6.7 g (15.64 mmol) of (S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid benzyl ester. LCMS (M+H): m/z 428, retention time 3.9 min.

reactant | (S)-piperidine-2-carboxylic acid benzyl ester hydrochloride | 15.64 mmol, 4.0 g | Cl.C(C1=CC=CC=C1)OC(=O)[C@H]1NCCCC1
reactant | triethylamine | 31.28 mmol, 3.15 g | C(C)N(CC)CC | C6H15N
reactant | 3-trifluoromethylbenzenesulfonyl chloride | 17.20 mmol, 4.21 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | (S)-1-(3-Trifluoromethyl-benzenesulfonyl)-piperidine-2-carboxylic acid benzyl ester | 15.64 mmol, 6.7 g | C(C1=CC=CC=C1)OC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C20H20F3NO4S
